US08048909B2
N-Methyl-1-{5-(3-fluorophenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrol-3-yl}methanamine hydrochloride
Using 5-(3-fluorophenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde (0.57 g), methylammonium chloride (1.38 g) and sodium cyanoborohydride (0.32 g), a procedure as in Example 4 was performed to give the title compound as white crystals (yield 0.45 g, 69%).

reactant | 5-(3-fluorophenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde | 0.57 g | FC=1C=C(C=CC1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)C)C=O | C18H14FNO3S
reactant | methylammonium chloride | 1.38 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.32 g | C(#N)[BH3-].[Na+]
product | N-Methyl-1-{5-(3-fluorophenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrol-3-yl}methanamine hydrochloride | yield 0.45 g, 69% | Cl.CNCC1=CN(C(=C1)C1=CC(=CC=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C19H19FN2O2S.ClH/c1-14-6-8-18(9-7-14)25(23,24)22-13-15(12-21-2)10-19(22)16-4-3-5-17(20)11-16;/h3-11,13,21H,12H2,1-2H3;1H
